US07652058B2
(3aS,6R,7R,7aR)-2-acetyl-6-{(1R)-1-[3,5-bis(Trifluoromethyl)phenyl]ethoxy}-7-(4-fluoro-2-methylphenyl)octahydropyrano[3,4-c]pyrrole
A solution of (3aS,6R,7R,7aR)-6-{(1R)-1-[3,5-bis(trifluoromethyl)phenyl]ethoxy}-7-(4-fluoro-2-methylphenyl)octahydropyrano[3,4-c]pyrrole (29 mg, 0.059 mmol), DMAP (1 mg) and acetic anhydride (0.028 mL, 0.30 mmol) in 2 mL of pyridine was stirred at rt for 4 hr. Volatiles were removed and the crude was purified by reverse phase HPLC to afford the title compound. MS: (MH)+534.

reactant | (3aS,6R,7R,7aR)-6-{(1R)-1-[3,5-bis(trifluoromethyl)phenyl]ethoxy}-7-(4-fluoro-2-methylphenyl)octahydropyrano[3,4-c]pyrrole | 0.059 mmol, 29 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H](C)O[C@@H]1[C@H]([C@H]2[C@@H](CNC2)CO1)C1=C(C=C(C=C1)F)C)(F)F | C24H24F7NO2
reactant | acetic anhydride | 0.30 mmol, 0.028 mL | C(C)(=O)OC(C)=O | C4H6O3
catalyst | DMAP | 1 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
product | (3aS,6R,7R,7aR)-2-acetyl-6-{(1R)-1-[3,5-bis(Trifluoromethyl)phenyl]ethoxy}-7-(4-fluoro-2-methylphenyl)octahydropyrano[3,4-c]pyrrole | C(C)(=O)N1C[C@@H]2[C@@H](C1)[C@@H]([C@H](OC2)O[C@H](C)C2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)C2=C(C=C(C=C2)F)C | C26H26F7NO3
